2148-01-02 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2148-1-1**] 05:16 PM
   ventilation started in unit ~ 1715 after transfer from OR post op
   -changed from phenylephrine to dopamine
   -spike T at 4am to 100.9-> urine ctx sent, requested blood as well
   -started D51/2 NS o/n
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2148-1-1**] 08:00 PM
   Infusions:
   Propofol - 80 mcg/Kg/min
   Dopamine - 10 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2148-1-1**] 09:11 PM
   Fentanyl - [**2148-1-2**] 04:25 AM
   Other medications:
   1000 mL LR 3. 20 mEq Potassium Chloride / 1000 mL D5NS 4. Acetaminophen
   5. Carbidopa-Levodopa (25-100)
   10. Carbidopa-Levodopa (25-100) 11. Carbidopa-Levodopa (25-100) 12.
   DOPamine 13. Fentanyl Citrate
   14. Magnesium Sulfate 15. Mirapex 16. Mirapex 17. Morphine Sulfate 18.
   Ondansetron 19. OxycoDONE (Immediate Release)
   20. Potassium Chloride 21. Propofol 22. Sodium Chloride 0.9% Flush 23.
   Vancomycin 24. Vesicare
   25. Vitamin D
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-2**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 99 (78 - 135) bpm
   BP: 94/45(56) {84/45(56) - 114/78(82)} mmHg
   RR: 24 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,794 mL
                                                                    835 mL
   PO:
             TF:
   IVF:
                                                                  3,624 mL
                                                                    685 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                  1,220 mL
   Urine:
                                                                    800 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,494 mL
                                                                   -385 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 384 (384 - 572) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///24/
   Ve: 10.1 L/min
   Physical Examination
   Gen: little movements to voice, opens eyes and resists when examiner
   moves eyelids
   HEENT: pupils ERRL
   CV: rtachycardic, RR, nl s1 s2 no m
   Pulm: cta b/l
   Ext: left shoulder wrapped, c/d/I, no LE edema
   Abd: +BS, soft NTND
   Labs / Radiology
   312 K/uL
   11.3 g/dL
   136 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.1 mEq/L
   9 mg/dL
   109 mEq/L
   141 mEq/L
   33.9 %
   8.4 K/uL
        [image002.jpg]
                             [**2148-1-1**]  06:01 PM
                             [**2148-1-2**]  04:34 AM
   WBC
   11.1
   8.4
   Hct
   28.7
   33.9
   Plt
   330
   312
   Cr
   0.3
   0.5
   Glucose
   80
   136
   Other labs: PT / PTT / INR:13.8/30.6/1.2, Differential-Neuts:76.1 %,
   Lymph:15.8 %, Mono:6.1 %, Eos:1.7 %, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.3 mg/dL
   [**1-2**]: PT: 12.1
   PTT: 25.1
   INR: 1.0
   Microbiology: urine culture pending [**1-2**]
   Assessment and Plan
 PARKINSON'S DISEASE
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   68 yo F with Parkinson's s/p deep brain stimulator. Is presenting to
   unit immediately post-op from removal of hardware (L glenoid component)
   placed during total shoulder arthroplasty in [**2147-3-20**].
   #. Parkinson's disease:
   Patient with severe post-op dyskinesia in past ([**2-/2147**]) resulting in
   shoulder dislocation. Patient is immediately post-op from left shoulder
   procedure that was an attempt to repair some damage done in [**2-/2147**]
   after her post-op dyskinesia. There is fear that patient will again
   have dyskinesia when coming out of surgical anesthesia, so we will
   attempt to sedate her overnight and slowly wean her from sedatio in the
   morning.
   - Sedating patient with propofol and bolus IV pain medications to keep
   her free of dyskinetic movements
   - Gradual liberation from sedation thia am
   - Continue Carbidopa-Levodopa 7 times daily
   - Continue pramipexole TID
   - Appreciate input from patient's neurologist, Dr. [**First Name (STitle) 4387**]
   - wean sedation so that may be extubated over 1-2 days after confirming
   with neurology and surgery
   -change pain regimen to standing morphine, give 1 time dose of 2mg now
   to determine effectiveness
   #. Shoulder surgery:
   - Appreciate ortho team guiding management from this aspect
   - Keep shoulder immobilized in sling
   - Vancomycin 1 g Q12H for 2 doses post-op
   - Pain management with morphine IV and bolus fentanyl as needed
   - TEDs and pneumoboots for DVT prophylaxis, no heparin or enoxaparin at
   this time
   # fever: likely post-operative and physiologic
   -CXR to complete infectious w/u
   -cdiff if has BM
   -ask surgery to evaluate shoulder
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2148-1-1**] 04:45 PM
   20 Gauge - [**2148-1-1**] 05:45 PM
   Prophylaxis:
   DVT: Boots(TEDS)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: With patient upon extubation and with [**Doctor First Name 1201**],
   daughter: cell [**Telephone/Fax (1) 12001**], email PCP
   [**Name9 (PRE) 36**] status: Full code
   Disposition:To surgical service once extubated and stable

2148-01-03 06:45:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] Resident Progress Note
   Chief Complaint: Left shoulder surgery
   [**62**] Hour Events:
   - Spiked a fever to 102.5 and having yellow ugly sputum, send sputum
   cx, started on Vancomycin, Levofloxacin, Cefepime
   - CXR: The cardiac silhouette is slightly enlarged. Probable
   atelectatic changes at the left base. However, in view of the new
   fever, the possibility of supervening pneumonia can certainly not be
   excluded.
   - ICU consent signed
   - Albumin 3.3, Ca corrects to normal
   - Given 2mg IV Morphine at 330pm for discomfort, weaned propofol from
   70 to 30, then turned it off completely with plan to extubate in the
   evening.  But without it, patient with bad right arm dyskinesias and we
   were worried she would hurt her surgical site so resedated her.  She
   also lost all PIV's and infiltrated propofol into her arm.  Finally got
   2 in arms, but almost had to put central line in.
   - Neuro recs: resumed original DBS settings, states that she may be
   tipped easily into encephalopathy and that dyskinesias could resemble
   restlessness
   - Ortho recs: NWB LUE, sling all times, no pendulums or ROM on left
   shoulder
   - Sputum gram stain not good enough, ordered another
   - Ortho came by this am, said dressing looks good and don't think wound
   is causing fever
 FEVER - 102.5
F - [**2148-1-2**] 11:00 AM
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2148-1-2**] 09:00 AM
   Cefipime - [**2148-1-2**] 05:07 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2148-1-3**] 04:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-3**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.7
C (99.9
   HR: 83 (77 - 109) bpm
   BP: 143/62(78) {88/41(52) - 151/85(90)} mmHg
   RR: 18 (14 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,069 mL
                                                                    787 mL
   PO:
             TF:
   IVF:
                                                                  3,459 mL
                                                                    707 mL
   Blood products:
   Total out:
                                                                  3,430 mL
                                                                    330 mL
   Urine:
                                                                  3,430 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    639 mL
                                                                    457 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 465 (341 - 588) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 7.8 L/min
   Physical Examination
   Gen: intubated and sedated, not responding to verbal or tactile stimuli
   HEENT: pupils ERRL
   CV: RRR, nl s1 s2 no murmurs
   Pulm: ventilated breath sounds, decreased breath sounds on left
   Ext: left shoulder wrapped, c/d/I, no LE edema, marked RUE edema
   Abd: +BS, soft NTND
   Labs / Radiology
   246 K/uL
   10.4 g/dL
   129 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.4 mEq/L
   8 mg/dL
   106 mEq/L
   139 mEq/L
   31.9 %
   12.4 K/uL
        [image002.jpg]
                             [**2148-1-1**]  06:01 PM
                             [**2148-1-2**]  04:34 AM
                             [**2148-1-3**]  04:29 AM
   WBC
   11.1
   8.4
   12.4
   Hct
   28.7
   33.9
   31.9
   Plt
   [**Telephone/Fax (3) 12015**]
   Cr
   0.3
   0.5
   0.5
   Glucose
   80
   136
   129
   Other labs: PT / PTT / INR:14.3/25.3/1.2, Differential-Neuts:76.1 %,
   Lymph:15.8 %, Mono:6.1 %, Eos:1.7 %, Albumin:3.3 g/dL, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.6 mg/dL
[**2148-1-2**] 2:50 pm SPUTUM      Source: Endotracheal.
                            **FINAL REPORT [**2148-1-2**]**
   GRAM STAIN (Final [**2148-1-2**]):
      >25 PMNs and >10 epithelial cells/100X field.
      Gram stain indicates extensive contamination with upper respiratory
      secretions. Bacterial culture results are invalid.
      PLEASE SUBMIT ANOTHER SPECIMEN.
   RESPIRATORY CULTURE (Final [**2148-1-2**]):
         TEST CANCELLED, PATIENT CREDITED.
   [**2148-1-2**] Blood and urine culture pending
   No CXR today
   Assessment and Plan
   68 yo F with Parkinson's s/p deep brain stimulator. Is presenting to
   unit immediately post-op from removal of hardware (L glenoid component)
   placed during total shoulder arthroplasty in [**2147-3-20**].
 PARKINSON'S DISEASE AND INTUBATION:
   Patient with severe post-op dyskinesia in past ([**2-/2147**]) resulting in
   shoulder dislocation. Patient is now post-op day 2 from left shoulder
   procedure that was an attempt to repair some damage done in [**2-/2147**]
   after her post-op dyskinesia. There is fear that patient will again
   have dyskinesia when coming out of surgical anesthesia.
   - Have restarted home Parkinson
s medications (continue
   Carbidopa-Levodopa 7 times daily and continue pramipexole TID)
   - Neurology following, has turned on DBS to full force
   - Pain control with IV morphine, especially peri-extubation
   - Gradual liberation from sedation again today, although this may be
   difficult given dyskinesias yesterday
   - Appreciate input from patient's neurologist, Dr. [**First Name (STitle) 4387**], [**First Name3 (LF) **] touch
   base with her regarding best way to manage acute dyskinesias
   - Ortho following and ok to pull tube
   - Will wean propofol and likely extubate this am
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   Has significant fevers yesterday to 102.5 and throughout the day.  Felt
   to be more significant that standard post-op fevers.  CXR shows
   possible left-sided pneumonia although read as likely atelectasis.
   - Continue vancomycin, Levofloxacin, Cefepime started yesterday for
   HAP, possibly VAP
 now day 2 of 8
   - Send additional sputum cultures
   - Consider drug fever although this is less likely given time course,
   drugs administered
   - Send C Diff culture
   - No evidence of DVT at this time
   - Urinalysis negative yesterday morning
   - Unlikely to be just atelectasis given severity of fever
   - Ortho feels not related to wound, too early to be wound infection
   #. Shoulder surgery:  Left arm has been immobilized in sling
   - Appreciate ortho team guiding management from this aspect
   - Keep shoulder immobilized in sling, NWB status
   - Pain management with morphine IV and bolus fentanyl as needed
   - TEDs and pneumoboots for DVT prophylaxis, no heparin or enoxaparin at
   this time
   ICU Care
   Nutrition: NPO
   Glycemic Control: None
   Lines: 2 PIV, 22 Gauge - [**2148-1-3**] 12:15 AM, likely will need midline
   today
   Prophylaxis:
   DVT: Boots(TEDS)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: With patient upon extubation and with [**Doctor First Name 1201**],
   daughter: cell [**Telephone/Fax (1) 12001**], email PCP
   [**Name9 (PRE) 36**] status: Full code
   Disposition:To surgical service once extubated and stable

2148-01-04 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2148-1-3**] 02:00 PM
 INVASIVE VENTILATION - STOP [**2148-1-3**] 02:25 PM
   ventilation started in unit ~ 1715 after transfer from OR post op
 BLOOD CULTURED - At [**2148-1-3**] 11:17 PM
 URINE CULTURE - At [**2148-1-3**] 11:17 PM
 FEVER - 212.5
C - [**2148-1-4**] 12:00 AM
   - extubated in afternoon, did well. Minimal dyskinesia.
   - neuro: can use amantidine 100 [**Hospital1 7**] for dyskinesia, but that was not
   helpful last time.  Can also use carcopa 25/100 if not swallowing well
   after extubation
   - ortho: did not leave recs
   - oral flora on sputum Cx: stopped all abx but levo
   - midline placed
   - probable callout in AM
   - bolused 1 L for tachycardia to low 100s at 1800, and 1L for low UOP
   at 1 am
   - fever to 100.3 at 1 am -> sent blood and urine cx
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2148-1-2**] 05:07 PM
   Vancomycin - [**2148-1-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2148-1-4**] 06:49 AM
   Other medications:
   1000 mL NS 4. 1000 mL NS 5. Acetaminophen 6. Carbidopa-Levodopa
   (25-100) 7. Carbidopa-Levodopa (25-100)
   8. Carbidopa-Levodopa (25-100) 9. Carbidopa-Levodopa (25-100) 10.
   Carbidopa-Levodopa (25-100) 11. Carbidopa-Levodopa (25-100)
   12. Carbidopa-Levodopa (25-100) 13. Fentanyl Citrate 14. Heparin Flush
   (10 units/ml) 15. 16. Levofloxacin
   17. Magnesium Sulfate 18. Mirapex 19. Mirapex 20. Morphine Sulfate 21.
   Morphine Sulfate 22. Ondansetron
   23. OxycoDONE (Immediate Release) 24. Potassium Chloride (Powder) 25.
   Sodium Chloride 0.9% Flush
   26. Vesicare 27. Vitamin D
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies shoulder pain, states has a HA, no difficulty
   breathing
   Flowsheet Data as of  [**2148-1-4**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 100.3
C (212.5
   Tcurrent: 99.8
C (211.6
   HR: 83 (82 - 101) bpm
   BP: 138/56(72) {115/50(63) - 156/79(88)} mmHg
   RR: 15 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.6 kg (admission): 94 kg
             Total In:
                                                                  3,969 mL
                                                                  1,196 mL
   PO:
             TF:
   IVF:
                                                                  3,389 mL
                                                                  1,076 mL
   Blood products:
   Total out:
                                                                    915 mL
                                                                    200 mL
   Urine:
                                                                    915 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,054 mL
                                                                    997 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 417 (417 - 417) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///25/
   Ve: 9 L/min
   Physical Examination
   Gen: NAD, dysarthric
   CV:RRR no m
   Pulm: decreased BS right base otherwise clear
   Abd: +BS, soft NTND
   Ext: no edema, dressing left shoulder c/d/i
   Labs / Radiology
   252 K/uL
   8.3 g/dL
   111 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.7 mEq/L
   8 mg/dL
   108 mEq/L
   139 mEq/L
   24.6 %
   9.0 K/uL
        [image002.jpg]
                             [**2148-1-1**]  06:01 PM
                             [**2148-1-2**]  04:34 AM
                             [**2148-1-3**]  04:29 AM
                            [**2148-1-4**]  02:53 AM
   WBC
   11.1
   8.4
   12.4
   9.0
   Hct
   28.7
   33.9
   31.9
   24.6
   Plt
   [**Telephone/Fax (3) 12054**]52
   Cr
   0.3
   0.5
   0.5
   0.4
   Glucose
   80
   136
   129
   111
   Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Blood 12/8, 9 pending
   Urine [**1-2**] negative
   Urine [**1-3**] pending
   Sputum [**1-3**] pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Intubation
 PARKINSON'S DISEASE
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   68 yo F with Parkinson's s/p deep brain stimulator. Is presenting to
   unit immediately post-op from removal of hardware (L glenoid component)
   placed during total shoulder arthroplasty in [**2147-3-20**].
 PARKINSON'S DISEASE AND INTUBATION:
   Patient with severe post-op dyskinesia in past ([**2-/2147**]) resulting in
   shoulder dislocation. Patient is now post-op day 2 from left shoulder
   procedure that was an attempt to repair some damage done in [**2-/2147**]
   after her post-op dyskinesia. There is fear that patient will again
   have dyskinesia when coming out of surgical anesthesia.  Now s/p
   extubation [**1-3**].
   - restarted home Parkinson
s medications (continue Carbidopa-Levodopa 7
   times daily and continue pramipexole TID)
   - Neurology following, has turned on DBS to full force
   - Appreciate input from patient's neurologist, Dr. [**First Name (STitle) 4387**], [**First Name3 (LF) **] touch
   base with her regarding best way to manage acute dyskinesias
   - Ortho following and ok to pull tube
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   Has significant fevers 2 days ago to 102.5 and throughout the day and
   last night.  Felt to be more significant that standard post-op fevers.
   CXR shows possible left-sided pneumonia although read as likely
   atelectasis.
   - Continue vancomycin, Levofloxacin, Cefepime started [**1-2**] for HAP,
   possibly VAP
 now day 3 of 8
   - f/u cultures
   - Consider drug fever although this is less likely given time course,
   drugs administered
   - Ortho feels not related to wound, too early to be wound infection
   #. Shoulder surgery:  Left arm has been immobilized in sling
   - Appreciate ortho team guiding management from this aspect
   - Keep shoulder immobilized in sling, NWB status
   - Pain management with morphine IV and bolus fentanyl as needed
   - TEDs and pneumoboots for DVT prophylaxis, no heparin or enoxaparin at
   this time
   # Hct drop: consistent on repeat, unclear source
   -tranfuse 1U then recheck and consider another unit
   -gastric lavage
   -ortho aware (thought late for post surgical bleed could be prompted by
   dyskinesia)
   ICU Care
   Nutrition: Npo for now
   Glycemic Control:
   Lines:
   PICC Line - [**2148-1-3**] 02:00 PM
   Prophylaxis:
   DVT: TEDS/pneumoboots
   Stress ulcer:  add PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: ?c/o to surgery vs medicine

2148-01-05 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 210.2
C - [**2148-1-4**] 06:00 PM
   - decreased Hct, received 2U, put in for 3U
   - GI notified, will staff in am
   - plan to call out to [**Location **] tomorrow
   - lavage gastrocculy positive, no gross blood but pinkist tinged
   - per daughter in am, patient's speech and overall improving, but [**First Name8 (NamePattern2) **]
   [**Doctor First Name 1201**] sounds like slurring on the phone.  On exam, flattened left lip
   and decreased left wrinkles of face but per neuro note, she has
   increased tone on the right at baseline from PD
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2148-1-2**] 05:07 PM
   Vancomycin - [**2148-1-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2148-1-4**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: c/o headache
   Flowsheet Data as of  [**2148-1-5**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 99
C (210.2
   Tcurrent: 37.4
C (99.3
   HR: 81 (80 - 94) bpm
   BP: 159/58(83) {125/46(65) - 184/87(106)} mmHg
   RR: 11 (11 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.6 kg (admission): 94 kg
           Total In:
                                                                  2,157 mL
                                                                    417 mL
   PO:
           TF:
   IVF:
                                                                  1,252 mL
                                                                     77 mL
   Blood products:
                                                                    725 mL
                                                                    250 mL
   Total out:
                                                                  1,395 mL
                                                                    745 mL
   Urine:
                                                                  1,395 mL
                                                                    745 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    762 mL
                                                                   -328 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   GEN: NAD
   CV: rrr nl s1 s2 no m
   Pulm: cta b/l
   Abd: +BS, soft NTND
   Ext: no edema
   Neuro: CNs intact except increased tone right lip and increased
   wrinkles right cheek, equal sensation and strenght exts [**4-29**]
   Labs / Radiology
   292 K/uL
   10.6 g/dL
   111 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.7 mEq/L
   8 mg/dL
   108 mEq/L
   139 mEq/L
   31.5 %
   8.0 K/uL
         [image002.jpg]
                             [**2148-1-1**]  06:01 PM
                             [**2148-1-2**]  04:34 AM
                             [**2148-1-3**]  04:29 AM
                            [**2148-1-4**]  02:53 AM
                            [**2148-1-4**]  11:44 AM
                            [**2148-1-4**]  04:33 PM
                            [**2148-1-4**]  11:56 PM
                            [**2148-1-5**]  06:45 AM
   WBC
   11.1
   8.4
   12.4
   9.0
   8.0
   Hct
   28.7
   33.9
   31.9
   24.6
   25.9
   26.4
   28.7
   31.5
   Plt
   [**Telephone/Fax (3) 12054**]52
   292
   Cr
   0.3
   0.5
   0.5
   0.4
   Glucose
   80
   136
   129
   111
   Other labs: PT / PTT / INR:14.3/25.3/1.2, Differential-Neuts:76.1 %,
   Lymph:15.8 %, Mono:6.1 %, Eos:1.7 %, Albumin:3.3 g/dL, Ca++:7.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Blood 12/9, 8 pending
   Urine [**1-3**] pending; [**1-2**] negative
   Sputum [**1-3**] pending OP flora
   Assessment and Plan
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Intubation
 PARKINSON'S DISEASE
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   68 yo F with Parkinson's s/p deep brain stimulator. Is presenting to
   unit immediately post-op from removal of hardware (L glenoid component)
   placed during total shoulder arthroplasty in [**2147-3-20**].
 PARKINSON'S DISEASE AND INTUBATION: Patient with severe post-op
   dyskinesia in past ([**2-/2147**]) resulting in shoulder dislocation. Patient
   is now post-op day 2 from left shoulder procedure that was an attempt
   to repair some damage done in [**2-/2147**] after her post-op dyskinesia.
   There is fear that patient will again have dyskinesia when coming out
   of surgical anesthesia.  Now s/p extubation [**1-3**].
   - restarted home Parkinson
s medications (continue Carbidopa-Levodopa 7
   times daily and continue pramipexole TID)
   - Neurology following, has turned on DBS to full force
   - Appreciate input from patient's neurologist, Dr. [**First Name (STitle) 4387**], [**First Name3 (LF) **] touch
   base with her regarding best way to manage acute dyskinesias
   # Hct drop: responded to 3U of blood, gatric lavage positive. ? stress
   ulcer as what not on PPI though was not high risk. Could also be
   gastritis versus malignancy
   - GI seeing this am: as patient will need endoscopy anyway will
   advocate for scope in ICU give patient
s complicated course
   -ortho aware (thought late for post surgical bleed could be prompted by
   dyskinesia)
   - Hct Q8H
   - Ask IV nurse [**First Name (Titles) **] [**Last Name (Titles) 3173**] if possible
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN) : afebrile
   o/n
   Has significant fevers 3 days ago to 102.5 afterwards.  Felt to be more
   significant that standard post-op fevers.  CXR shows possible
   left-sided pneumonia although read as likely atelectasis.
   - Continue Levofloxacin started [**1-2**] for HAP, possibly VAP
 now day 4
   of 8
   - f/u cultures
   - Consider drug fever although this is less likely given time course,
   drugs administered
   - Ortho feels not related to wound, too early to be wound infection
   #. Shoulder surgery:  Left arm has been immobilized in sling
   - Appreciate ortho team guiding management from this aspect
   - Keep shoulder immobilized in sling, NWB status
   - Pain management with morphine IV and bolus fentanyl as needed
   - TEDs and pneumoboots for DVT prophylaxis, no heparin or enoxaparin at
   this time
   ICU Care
   Nutrition: NPO pending GI work-up.
   Glycemic Control:
   Lines:
   PICC Line - [**2148-1-3**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: increase bowel regimen
   Communication:  Comments:
   Code status:  full
   Disposition: ?c/o today after endoscopy, will go to [**Location 4031**]
   Service

2148-01-06 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Ortho says clinically shoulder looks fine, no indication for CT
   because it would show some blood, ecchymosis and edema supposed to be
   there post-op
   - GI says don't think any GI bleed, would expect NG lavage to have
   positive gastroccult and that test is negative, stool guaiac negative
   so no indication for EGD now or electively.  Rec'd outpatient screening
   colonoscopy and to check a retic ct.
   - Pulled out NG tube on her own
   - Advanced to full liquid diet
   - Decided to keep her here overnight and may be direct d/c to rehab
   tomorrow or Monday
   - Neuro Recs: Consider CT head due to left facial weakness, but
   dysarthria at baseline.  Attending not very convinced so we held off.
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2148-1-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2148-1-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-6**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 110 (77 - 110) bpm
   BP: 176/93(156) {114/55(75) - 190/112(156)} mmHg
   RR: 25 (14 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.6 kg (admission): 94 kg
             Total In:
                                                                    952 mL
                                                                    208 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    402 mL
                                                                     88 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                  1,705 mL
                                                                    640 mL
   Urine:
                                                                  1,705 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -753 mL
                                                                   -432 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula at 3 L
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   Gen: awake and alert, lying comfortably in bed, NAD
   HEENT: NCAT, perrla, EOMI, neck supple, OP clear
   CV: RRR, nl S1, S2, no murmurs appreciated
   Pulm: CTAB
   Abd: soft, NT, ND, +BS
   Extrem: Left arm immobilized  in sling, LE no c/c/e b/l, wwp
   Labs / Radiology
   363 K/uL
   11.6 g/dL
   95 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.6 mEq/L
   6 mg/dL
   103 mEq/L
   140 mEq/L
   33.6 %
   7.5 K/uL
        [image002.jpg]
                             [**2148-1-1**]  06:01 PM
                             [**2148-1-2**]  04:34 AM
                             [**2148-1-3**]  04:29 AM
                            [**2148-1-4**]  02:53 AM
                            [**2148-1-4**]  11:44 AM
                            [**2148-1-4**]  04:33 PM
                            [**2148-1-4**]  11:56 PM
                            [**2148-1-5**]  06:45 AM
                            [**2148-1-5**]  03:24 PM
                            [**2148-1-6**]  03:25 AM
   WBC
   11.1
   8.4
   12.4
   9.0
   8.0
   7.5
   Hct
   28.7
   33.9
   31.9
   24.6
   25.9
   26.4
   28.7
   31.5
   31.0
   33.6
   Plt
   [**Telephone/Fax (3) 12095**]
   Cr
   0.3
   0.5
   0.5
   0.4
   0.4
   0.4
   Glucose
   80
   136
   129
   111
   90
   95
   Other labs: PT / PTT / INR:14.3/25.3/1.2, Differential-Neuts:76.1 %,
   Lymph:15.8 %, Mono:6.1 %, Eos:1.7 %, Albumin:3.3 g/dL, Ca++:8.4 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.6 mg/dL
   BCx [**1-2**] and [**1-3**] pend
   U Cx [**1-2**] and [**1-3**] neg
   Sputum Cx [**1-2**] ans [**1-3**] respiratory flora
   No CXR this AM
   Assessment and Plan
   68 yo F with Parkinson's s/p deep brain stimulator. Is presenting to
   unit immediately post-op from removal of hardware (L glenoid component)
   placed during total shoulder arthroplasty in [**2147-3-20**].

 PARKINSON'S DISEASE AND INTUBATION: Patient with severe post-op
   dyskinesia in past ([**2-/2147**]) resulting in shoulder dislocation. Patient
   is now post-op from left shoulder procedure that was an attempt to
   repair some damage done in [**2-/2147**] after her post-op dyskinesia. There
   was fear that patient would again have dyskinesia when coming out of
   surgical anesthesia, but tolerated extubation well on [**1-3**].
   - continue home Parkinson
s medications (continue Carbidopa-Levodopa 7
   times daily and continue pramipexole TID)
   - Neurology following, has turned on DBS to full force
   - Appreciate input from patient's neurologist, Dr. [**First Name (STitle) 4387**]
   .
   # Hct drop: responded to 3U of blood, gastric lavage and guaiac neg
   yesterday per GI consult.
- GI recs seen and appreciated; do not think this was GI bleed -> continue IV PP
I and rec outpatient colonoscopy
   - ortho aware (thought late for post surgical bleed could be prompted
   by dyskinesia)
   - Hct stable currently, will continue to monitor [**Hospital1 7**]
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN) : afebrile
   o/n, had significant fevers 3 days ago to 102.5 afterwards.  Felt to be
   more significant that standard post-op fevers.  CXR shows possible
   left-sided pneumonia although read as likely atelectasis.
   - Continue Levofloxacin started [**1-2**] for HAP, possibly VAP
 now day 5
   of 8
   - f/u cultures
   - Consider drug fever although this is less likely given time course,
   drugs administered
   - Ortho feels not related to wound, too early to be wound infection
   #. Shoulder surgery:  Left arm has been immobilized in sling
   - Appreciate ortho team guiding management from this aspect
   - Keep shoulder immobilized in sling, NWB status
   - Pain management with morphine IV and bolus fentanyl as needed
   - TEDs and pneumoboots for DVT prophylaxis, no heparin or enoxaparin at
   this time
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   PICC Line - [**2148-1-3**] 02:00 PM
   Prophylaxis:
   DVT: TEDS and Pneumoboots
   Stress ulcer: IV PPI [**Hospital1 7**]
   VAP:
   Comments: Bowel regimen
   Communication:  Comments: patient
   Code status: Full Code
   Disposition: callout to floor with plan to transfer to [**Hospital 328**] rehab
   when bed available

2148-01-07 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -PM Hct: 33.1
   no GI recs
   Ortho: f/u 10-14 days with them
   -was going to be called out, but ortho concerned that she would not get
   meds on strict dosing intervals and asked that she stay in ICU until
   rehab
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2148-1-6**] 11:58 PM
   Other medications:
   Acetaminophen 4. Carbidopa-Levodopa (25-100) 5. Carbidopa-Levodopa
   (25-100) 6. Carbidopa-Levodopa (25-100)
   7. Carbidopa-Levodopa (25-100) 8. Carbidopa-Levodopa (25-100) 9.
   Carbidopa-Levodopa (25-100) 10. Carbidopa-Levodopa (25-100)
   11. Calcium Carbonate 12. Docusate Sodium (Liquid) 13. Fentanyl Citrate
   14. Heparin Flush (10 units/ml)
   15. 16. Levofloxacin 17. Magnesium Sulfate 18. Mirapex 19. Mirapex 20.
   Morphine Sulfate 21. Ondansetron
   22. OxycoDONE (Immediate Release) 23. Pantoprazole 24. Potassium
   Chloride 25. Senna 26. Sodium Chloride 0.9% Flush
   27. Vesicare 28. Vitamin D
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: no pain, no SOB , feels speech improved
   Flowsheet Data as of  [**2148-1-7**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.3
C (97.3
   HR: 80 (78 - 110) bpm
   BP: 137/79(93) {99/18(40) - 176/95(156)} mmHg
   RR: 16 (13 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.6 kg (admission): 94 kg
             Total In:
                                                                  1,262 mL
                                                                    216 mL
   PO:
                                                                    800 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    462 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                  1,665 mL
                                                                    625 mL
   Urine:
                                                                  1,665 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -403 mL
                                                                   -409 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Gen: more easy to understand, alert oX3, incr eased movt right side
   CV: rrr nls1s2 no m
   Pulm: CTA b/l
   Abd: +BS, soft NTND
   Ext: no edema
   Neuro: CNs intact, still decreased tone left lip and decreased
   wrinkles, nl sensation and strength
   Labs / Radiology
   377 K/uL
   11.5 g/dL
   105 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.8 mEq/L
   7 mg/dL
   106 mEq/L
   140 mEq/L
   33.1 %
   6.6 K/uL
        [image002.jpg]
                             [**2148-1-3**]  04:29 AM
                            [**2148-1-4**]  02:53 AM
                            [**2148-1-4**]  11:44 AM
                            [**2148-1-4**]  04:33 PM
                            [**2148-1-4**]  11:56 PM
                            [**2148-1-5**]  06:45 AM
                            [**2148-1-5**]  03:24 PM
                            [**2148-1-6**]  03:25 AM
                            [**2148-1-6**]  06:17 PM
                            [**2148-1-7**]  03:48 AM
   WBC
   12.4
   9.0
   8.0
   7.5
   6.6
   Hct
   31.9
   24.6
   25.9
   26.4
   28.7
   31.5
   31.0
   33.6
   33.1
   33.1
   Plt
   [**Telephone/Fax (3) **]63
   377
   Cr
   0.5
   0.4
   0.4
   0.4
   0.4
   Glucose
   129
   111
   90
   95
   105
   Other labs: Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Imaging: none
   Microbiology: blood 12/8,9 pending
   urine [**1-2**], 9 negative
   Assessment and Plan
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Intubation
 PARKINSON'S DISEASE
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   68 yo F with Parkinson's s/p deep brain stimulator. Is presenting to
   unit immediately post-op from removal of hardware (L glenoid component)
   placed during total shoulder arthroplasty in [**2147-3-20**].

 PARKINSON'S DISEASE AND INTUBATION: Patient with severe post-op
   dyskinesia in past ([**2-/2147**]) resulting in shoulder dislocation. Patient
   is now post-op from left shoulder procedure that was an attempt to
   repair some damage done in [**2-/2147**] after her post-op dyskinesia. There
   was fear that patient would again have dyskinesia when coming out of
   surgical anesthesia, but tolerated extubation well on [**1-3**].
   - continue home Parkinson
s medications (continue Carbidopa-Levodopa 7
   times daily and continue pramipexole TID)
   - Neurology following, has turned on DBS to full force
   - Appreciate input from patient's neurologist, Dr. [**First Name (STitle) 4387**]
   .
   # Hct drop: responded to 3U of blood, gastric lavage and guaiac neg
   yesterday per GI consult.
   - GI recs seen and appreciated; do not think this was GI bleed ->
   continue IV PPI and rec outpatient colonoscopy, will change to PO PPI
   today
   - ortho aware (thought late for post surgical bleed could be prompted
   by dyskinesia)
   - Hct stable currently, monitor daily
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN) : afebrile
   o/n, had significant fevers 3 days ago to 102.5 afterwards.  Felt to be
   more significant that standard post-op fevers.  CXR shows possible
   left-sided pneumonia although read as likely atelectasis.
   - Continue Levofloxacin started [**1-2**] for HAP, possibly VAP
 now day 6
   of 8
   - f/u cultures
   - Consider drug fever although this is less likely given time course,
   drugs administered
   - Ortho feels not related to wound, too early to be wound infection
   #. Shoulder surgery:  Left arm has been immobilized in sling
   - Appreciate ortho team guiding management from this aspect
   - Keep shoulder immobilized in sling, NWB status
   - Pain management with oxycodone as needed
   - TEDs and pneumoboots for DVT prophylaxis, no heparin or enoxaparin at
   this time
   ICU Care
   Nutrition: diet
   Glycemic Control:
   Lines:
   PICC Line - [**2148-1-3**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI (change to PO)
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition: rehab once has a bed

2148-01-08 07:07:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] Resident Progress Note
   Chief Complaint: Shoulder surgery
   [**62**] Hour Events:
   - Hct stable, changed to PO PPI
   - awaiting rehab bed as ortho wants her to stay in ICU and await
   placement from here if possible
   - complains of feeling uncomfortable this am
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-8**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 76 (75 - 94) bpm
   BP: 131/78(91) {107/59(70) - 165/117(144)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.6 kg (admission): 94 kg
                  Total In:
                                                                    740 mL
                                                                    150 mL
   PO:
                                                                    690 mL
                                                                    150 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,730 mL
                                                                    815 mL
   Urine:
                                                                  1,730 mL
                                                                    815 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -990 mL
                                                                   -665 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ////
   Physical Examination
   Gen: [**Last Name (un) **] and oriented x 3, right side still with dyskinesia
   CV: RRR w/o MRG
   Pulm: CTA b/l
   Abd: +BS, soft NTND
   Ext: no edema peripherally
   Neuro: CNS intact, still decreased tone left lip and decreased
   wrinkles, nl sensation and strength
   Labs / Radiology
   422 K/uL
   12.5 g/dL
   105 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.8 mEq/L
   7 mg/dL
   106 mEq/L
   140 mEq/L
   36.8 %
   8.2 K/uL
        [image002.jpg]
   Just had CBC today
                            [**2148-1-4**]  02:53 AM
                            [**2148-1-4**]  11:44 AM
                            [**2148-1-4**]  04:33 PM
                            [**2148-1-4**]  11:56 PM
                            [**2148-1-5**]  06:45 AM
                            [**2148-1-5**]  03:24 PM
                            [**2148-1-6**]  03:25 AM
                            [**2148-1-6**]  06:17 PM
                            [**2148-1-7**]  03:48 AM
                            [**2148-1-8**]  04:51 AM
   WBC
   9.0
   8.0
   7.5
   6.6
   8.2
   Hct
   24.6
   25.9
   26.4
   28.7
   31.5
   31.0
   33.6
   33.1
   33.1
   36.8
   Plt
   [**Telephone/Fax (3) 12137**]77
   422
   Cr
   0.4
   0.4
   0.4
   0.4
   Glucose
   111
   90
   95
   105
   Other labs: PT / PTT / INR:14.3/25.3/1.2, Differential-Neuts:76.1 %,
   Lymph:15.8 %, Mono:6.1 %, Eos:1.7 %, Albumin:3.3 g/dL, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   [**1-2**], [**1-3**] Blood cx pending
   Assessment and Plan
   68 yo F with Parkinson's s/p deep brain stimulator who presented to the
   unit immediately post-op from removal of hardware (L glenoid component)
   placed during total shoulder arthroplasty in [**2147-3-20**].

 PARKINSON'S DISEASE AND INTUBATION: Patient with severe post-op
   dyskinesia in past ([**2-/2147**]) resulting in shoulder dislocation. Patient
   is now post-op from left shoulder procedure that was an attempt to
   repair some damage done in [**2-/2147**] after her post-op dyskinesia. There
   was fear that patient would again have dyskinesia when coming out of
   surgical anesthesia, but tolerated extubation well on [**1-3**].
   - continue home Parkinson
s medications (continue Carbidopa-Levodopa 7
   times daily and continue pramipexole TID)
   - Neurology following, has turned on DBS to full force
   - Appreciate input from patient's neurologist, Dr. [**First Name (STitle) 4387**]
 ANEMIA: Hematocrit drop, responded to 3U of blood, gastric lavage and
   guaiac neg per GI consult.
   - GI recs seen and appreciated; do not think this was GI bleed ->
   continue po PPI and rec outpatient colonoscopy
   - ortho aware (thought late for post surgical bleed could be prompted
   by dyskinesia)
   - Hct stable currently, monitor daily
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN) : Now
   afebrile.  Past fevers felt to be more significant that standard
   post-op fevers.  CXR shows possible left-sided pneumonia although read
   as likely atelectasis.
   - Continue Levofloxacin started [**1-2**] for HAP, possibly VAP
 now day 7
   of 8
   - Consider drug fever although this is less likely given time course,
   drugs administered
   - Ortho feels not related to wound, too early to be wound infection
   #. Shoulder surgery:  Left arm has been immobilized in sling
   - Appreciate ortho team guiding management from this aspect
   - Keep shoulder immobilized in sling, NWB status
   - Pain management with oxycodone as needed
   - TEDs and pneumoboots for DVT prophylaxis, no heparin or enoxaparin at
   this time
   ICU Care
   Nutrition: Vegetarian diet
   Glycemic Control:  None
   Lines: PICC Line - [**2148-1-3**] 02:00 PM
   Prophylaxis:
   DVT: TEDs and pneumoboots
   Stress ulcer: Po pantoprazole
   VAP:
   Comments:
   Communication:  Comments: Patient and daughter [**Name (NI) 1201**]: cell [**Telephone/Fax (1) 12001**]
   Code status: Full code
   Disposition: ICU for now, likely to rehab today if bed available

2148-01-08 12:18:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No pain overnight. Hct has been stable since last tx
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, Nausea, Emesis, No(t) Diarrhea,
   No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure,
   movements
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**1-27**] Minimal
   Flowsheet Data as of  [**2148-1-8**] 12:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.5
C (97.7
   HR: 86 (75 - 97) bpm
   BP: 164/83(100) {115/65(78) - 164/97(110)} mmHg
   RR: 21 (16 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.6 kg (admission): 94 kg
                  Total In:
                                                                    740 mL
                                                                    150 mL
   PO:
                                                                    690 mL
                                                                    150 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,730 mL
                                                                    955 mL
   Urine:
                                                                  1,730 mL
                                                                    955 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -990 mL
                                                                   -805 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.5 g/dL
   422 K/uL
   105 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.8 mEq/L
   7 mg/dL
   106 mEq/L
   140 mEq/L
   36.8 %
   8.2 K/uL
        [image002.jpg]
                            [**2148-1-4**]  02:53 AM
                            [**2148-1-4**]  11:44 AM
                            [**2148-1-4**]  04:33 PM
                            [**2148-1-4**]  11:56 PM
                            [**2148-1-5**]  06:45 AM
                            [**2148-1-5**]  03:24 PM
                            [**2148-1-6**]  03:25 AM
                            [**2148-1-6**]  06:17 PM
                            [**2148-1-7**]  03:48 AM
                            [**2148-1-8**]  04:51 AM
   WBC
   9.0
   8.0
   7.5
   6.6
   8.2
   Hct
   24.6
   25.9
   26.4
   28.7
   31.5
   31.0
   33.6
   33.1
   33.1
   36.8
   Plt
   [**Telephone/Fax (3) 12137**]77
   422
   Cr
   0.4
   0.4
   0.4
   0.4
   Glucose
   111
   90
   95
   105
   Other labs: PT / PTT / INR:14.3/25.3/1.2, Differential-Neuts:76.1 %,
   Lymph:15.8 %, Mono:6.1 %, Eos:1.7 %, Albumin:3.3 g/dL, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Intubation
 PARKINSON'S DISEASE
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   Parkinson's has improved slowly. Not yet at baseline but gradually
   improving. Hct has been stable and no evidence of further bleeding.
   Can have EGD/ colonoscopy as outpatient.  Needs to begin formal rehab
   for shoulder to achieve some range of motion. Pain is well controlled.
   ICU Care
   Nutrition:
   Comments: Tube feed
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2148-1-3**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes

2148-01-09 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No events over past 24 hours.  Per case management, patient with rehab
   bed today.
   This AM, patient reports: Feeling generally well, no pain, SOB, F/C.
   Tolerating PO diet with good appetite.  Feels ready to go to rehab.
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-9**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 79 (68 - 97) bpm
   BP: 118/72(83) {115/64(77) - 164/101(110)} mmHg
   RR: 21 (17 - 27) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.6 kg (admission): 94 kg
                  Total In:
                                                                    960 mL
                                                                     60 mL
   PO:
                                                                    960 mL
                                                                     60 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    430 mL
   Urine:
                                                                  1,645 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -685 mL
                                                                   -370 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///24/
   Physical Examination
   Gen: [**Last Name (un) **] and oriented x 3, right side still with dyskinesia
   CV: RRR w/o MRG
   Pulm: CTA b/l
   Abd: +BS, soft NTND
   Ext: no edema peripherally
   Neuro: CNS intact, still decreased tone left lip and decreased
   wrinkles, nl sensation and strength
   Labs / Radiology
   468 K/uL
   12.4 g/dL
   106 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.8 mEq/L
   5 mg/dL
   106 mEq/L
   142 mEq/L
   36.9 %
   8.5 K/uL
        [image002.jpg]
                            [**2148-1-4**]  11:44 AM
                            [**2148-1-4**]  04:33 PM
                            [**2148-1-4**]  11:56 PM
                            [**2148-1-5**]  06:45 AM
                            [**2148-1-5**]  03:24 PM
                            [**2148-1-6**]  03:25 AM
                            [**2148-1-6**]  06:17 PM
                            [**2148-1-7**]  03:48 AM
                            [**2148-1-8**]  04:51 AM
                            [**2148-1-9**]  04:44 AM
   WBC
   8.0
   7.5
   6.6
   8.2
   8.5
   Hct
   25.9
   26.4
   28.7
   31.5
   31.0
   33.6
   33.1
   33.1
   36.8
   36.9
   Plt
   292
   363
   377
   422
   468
   Cr
   0.4
   0.4
   0.4
   0.4
   Glucose
   90
   95
   105
   106
   Other labs: PT / PTT / INR:14.3/25.3/1.2, Differential-Neuts:76.1 %,
   Lymph:15.8 %, Mono:6.1 %, Eos:1.7 %, Albumin:3.3 g/dL, Ca++:8.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Blood culture [**1-3**] pending
   No new imaging
   Assessment and Plan
   68 yo F with Parkinson's s/p deep brain stimulator who presented to the
   unit immediately post-op from removal of hardware (L glenoid component)
   placed during total shoulder arthroplasty in [**2147-3-20**].

 PARKINSON'S DISEASE AND INTUBATION: Patient with severe post-op
   dyskinesia in past ([**2-/2147**]) resulting in shoulder dislocation. Patient
   is now post-op from left shoulder procedure that was an attempt to
   repair some damage done in [**2-/2147**] after her post-op dyskinesia. There
   was fear that patient would again have dyskinesia when coming out of
   surgical anesthesia, but tolerated extubation well on [**1-3**].
   - continue home Parkinson
s medications (continue Carbidopa-Levodopa 7
   times daily and continue pramipexole TID)
   - Neurology following, has turned on DBS to full force
   - Appreciate input from patient's neurologist, Dr. [**First Name (STitle) 4387**]
 ANEMIA: Hematocrit drop, responded to 3U of blood, gastric lavage and
   guaiac neg per GI consult. Hct stable x 3 days
   - GI recs seen and appreciated; do not think this was GI bleed ->
   continue po PPI and rec outpatient colonoscopy/EGD
   - ortho aware (thought late for post surgical bleed could be prompted
   by dyskinesia)
   - Hct stable currently, monitor daily
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN) : Now
   afebrile.  Past fevers felt to be more significant that standard
   post-op fevers.  CXR shows possible left-sided pneumonia although read
   as likely atelectasis.
   - Continue Levofloxacin started [**1-2**] for HAP, possibly VAP
 now day 8
   of 8
   - Consider drug fever although this is less likely given time course,
   drugs administered
   - Ortho feels not related to wound, too early to be wound infection
   #. Shoulder surgery:  Left arm has been immobilized in sling
   - Appreciate ortho team guiding management from this aspect
   - Keep shoulder immobilized in sling, NWB status
   - Pain management with oxycodone as needed
   - TEDs and pneumoboots for DVT prophylaxis, no heparin or enoxaparin at
   this time
   ICU Care
   Nutrition: Vegetarian diet
   Glycemic Control:  none
   Lines:
   PICC Line - [**2148-1-3**] 02:00 PM
   Prophylaxis:
   DVT: TEDS and pneumoboots
   Stress ulcer: PO pantoprazole
   VAP:
   Comments:
   Communication:  Comments: Patient and daughter [**Name (NI) 1201**]: cell [**Telephone/Fax (1) 12001**]
   Code status: FULL CODE
   Disposition: To rehab today this morning

2148-01-09 10:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Movement controlled. On outpatient meds for Parkinson's.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias, Dyskinesia
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**1-27**] Minimal
   Flowsheet Data as of  [**2148-1-9**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 82 (68 - 94) bpm
   BP: 116/66(78) {115/64(77) - 164/101(108)} mmHg
   RR: 22 (17 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.6 kg (admission): 94 kg
                  Total In:
                                                                    960 mL
                                                                     60 mL
   PO:
                                                                    960 mL
                                                                     60 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    560 mL
   Urine:
                                                                  1,645 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -685 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : scattered mid-insp, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand, L shoulder
   strapped
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: dyskinesia, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   12.4 g/dL
   468 K/uL
   106 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.8 mEq/L
   5 mg/dL
   106 mEq/L
   142 mEq/L
   36.9 %
   8.5 K/uL
        [image002.jpg]
                            [**2148-1-4**]  11:44 AM
                            [**2148-1-4**]  04:33 PM
                            [**2148-1-4**]  11:56 PM
                            [**2148-1-5**]  06:45 AM
                            [**2148-1-5**]  03:24 PM
                            [**2148-1-6**]  03:25 AM
                            [**2148-1-6**]  06:17 PM
                            [**2148-1-7**]  03:48 AM
                            [**2148-1-8**]  04:51 AM
                            [**2148-1-9**]  04:44 AM
   WBC
   8.0
   7.5
   6.6
   8.2
   8.5
   Hct
   25.9
   26.4
   28.7
   31.5
   31.0
   33.6
   33.1
   33.1
   36.8
   36.9
   Plt
   292
   363
   377
   422
   468
   Cr
   0.4
   0.4
   0.4
   0.4
   Glucose
   90
   95
   105
   106
   Other labs: PT / PTT / INR:14.3/25.3/1.2, Differential-Neuts:76.1 %,
   Lymph:15.8 %, Mono:6.1 %, Eos:1.7 %, Albumin:3.3 g/dL, Ca++:8.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Intubation
 PARKINSON'S DISEASE
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   Continues gradually to improve. Parkinson's is now approaching
   baseline. Hct has remained stable.  Will need an outpatient colonoscopy
   when stable after Rehab.  Plan for PT per Ortho.
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2148-1-3**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes